US06271395B1
10.8 ml of pyrrolidine in 6.75 g of 2,3-epoxy-indane [described by Mousseron et al. Bulletin de la, Societe Chimique de France, 1946, p. 629-630] in 10.8 ml of demineralized water. The temperature rose to 65° C. and the solution was stirred for 90 minutes at this temperature and 20 ml of demineralized water were added when the reaction was finished. Excess pyrrolidine was distilled off under reduced pressure to obtain an oily phase and an aqueous phase. These are saturated with sodium chloride at 20° C. and 1 ml of 32% sodium hydroxide was added. Extraction was done with ether and after drying and concentrating by distilling under reduced pressure, the oil obtained was purified by chromatography over silica (eluent:ethyl acetate with 5% of triethylamine) to obtain 8.31 g of [trans (±)] 2,3-dihydro-1-(1-pyrrolidinyl)-1H inden-2-ol.

reactant | pyrrolidine | 10.8 ml | N1CCCC1 | C4H9N
reactant | sodium chloride | [Cl-].[Na+]
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
reactant | 2,3-epoxy-indane | 6.75 g | O1C2CC3=CC=CC=C3C21 | C9H8O
solvent | water | 10.8 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 2,3-dihydro-1-(1-pyrrolidinyl)-1H inden-2-ol | N1(CCCC1)C1C(CC2=CC=CC=C12)O | C13H17NO
